US07067517B2
N-(4-Hydroxy-phenyl)-3,3-dimethyl-butyramide
To a solution of 4-aminophenol (3.27 g, 30.0 mmol) in dichloromethane (50 ml) were added 3,3-dimethyl-butyryl chloride (8.08 g, 60.0 mmol) and pyridine (4.85 ml, 60.0 mmol), while cooling the reaction mixture in an ice bath. After the addition was completed, the cooling bath was removed and stirring was continued overnight at room temperature. The solvent was removed by evaporation and the residue was dissolved in THF (300 ml). 6N NaOH (aq, 35 ml) was added and the mixture was stirred at room temperature overnight. The organic phase was removed by evaporation. Water (200 ml) was added and the solid material was collected by filtration, washed with water, dried in vacuo at 40° C. and dissolved in methanol (100 ml). A solution of KOH (3.37 g) in methanol (50 ml) was added. After stirring for 2 days at room temperature water (300 ml) was added and the organic solvent was removed by evaporation. The aqueous phase was acidified with 1 N HCl. The solids were collected by filtration and dried under vacuum at 40° C. yielding the title compound (1.97 g, 31%, pink solid). The mother liquor was extracted with ethyl acetate (3×250 ml). The combined organic phases were washed with saturated sodium bicarbonate (2×250 ml), dried in vacuo, filtered and evaporated yielding a second amount of the title compound (0.67 g, 10%). From the first aqueous extract another portion of product was isolated by extraction with ethyl acetate (4×250 ml). The combined organic phases were washed with water (400 ml), saturated sodium bicarbonate (2×400 ml), dried, filtered and evaporated yielding a pink thick oil. Crystallisation from ethyl acetate/heptane yielded a third amount of the title compound (2.11 g, 34%).

reactant | 4-aminophenol | 30.0 mmol, 3.27 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 3,3-dimethyl-butyryl chloride | 60.0 mmol, 8.08 g | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | pyridine | 60.0 mmol, 4.85 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(4-Hydroxy-phenyl)-3,3-dimethyl-butyramide | 1.97 g, 31% | OC1=CC=C(C=C1)NC(CC(C)(C)C)=O | C12H17NO2
